US04409380
Preparation of Diblocked Diisocyanate Urea Urethane Oligomer
Ethanolamine, 30.5 g, is added over a 5-10 minute period to half-blocked isophorone diisocyanate, 380 g, prepared according to Example I. During addition of the ethanolamine, the reaction mixture was maintained at a temperature of 90° C. After addition was completed, the reaction mixture was stirred for 3 hours, was then diluted with the glycol ether ester solvent Ektasolve E.P. (trademark, Eastman Kodak Company, Rochester, N.Y.), 20. g, and was then stored. The product oligomer was chcterized by its infrared spectrum which showed a absence of the absorption at 2250 cm-1, and the presence of urethane and urea carbonyl absorptions in the 1670-1710 cm-1 region.

reactant | Ethanolamine | C(O)CN | C2H7NO
reactant | isophorone diisocyanate | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
product | Diisocyanate Urea Urethane | NC(=O)OCC.NC(=O)N.[N-]=C=O.[N-]=C=O | InChI=1S/C3H7NO2.CH4N2O.2CNO/c1-2-6-3(4)5;2-1(3)4;2*2-1-3/h2H2,1H3,(H2,4,5);(H4,2,3,4);;/q;;2*-1
